* source FILTER
X_U1A         N00344 N00358 V+ V- N00362 LM324
R_R1         N01208 N00330  980.3 TC=0,0 
C_C1         N00330 N00344  10n  TC=0,0 
C_C2         0 N00330  10n  TC=0,0 
R_R2         0 N00344  475.7 TC=0,0 
R_R3         N00358 N00362  1k TC=0,0 
R_R4         0 N00358  240.8 TC=0,0 
R_R5         N00330 N00362  924.1 TC=0,0 
X_U1B         N00815 N00827 V+ V- N00831 LM324
C_C3         N00795 N00815  10n  TC=0,0 
R_R6         N00362 N00795  685.9 TC=0,0 
R_R7         0 N00815  332.8 TC=0,0 
R_R8         N00827 N00831  1k TC=0,0 
C_C4         0 N00795  10n  TC=0,0 
R_R10         N00795 N00831  646.6 TC=0,0 
R_R9         0 N00827  240.8 TC=0,0 
V_V1         N01208 0  
+PULSE -1.5 1.5 100us 50us 50us 0 100us
