* source AMTIAOZHI
E_MULT1         N00199 0 VALUE {V(N00123)*V(N00119)}
V_V1         N00123 0  AC 1.2v
+SIN 0v 1.2v 1k 0 0 0
V_V2         N00119 0  AC 1v
+SIN 0v 1v 30k 0 0 0
