* source LANQIU
C_C1         0 N00224  33n  TC=0,0 
R_R1         N00224 N00374  15k TC=0,0 
R_R2         0 N00224  4.7k TC=0,0 
R_R3         0 N00366  {re} TC=0,0 
L_L1         N00370 N00374  0.53u  
Q_Q1         N00370 N00224 N00366 Q2N2222
C_C2         N00370 N00391  33n  TC=0,0 
C_C3         N00366 N00391  200p  TC=0,0 
C_C4         0 N00366  300p  TC=0,0 
R_R4         N00374 N00577  0.1 TC=0,0 
V_V1         N00577 0 12v
R_R5         0 N00391  1k TC=0,0 
.PARAM  re=1k
