* source TONGDIAN
V_V1         N00330 0  AC 1.5v
+SIN 0 1.5v 15meg 0 0 0
L_L1         N00319 N00330  1m  
R_R1         0 N00319  5.1 TC=0,0 
C_C1         N00359 0  20u  TC=0,0 
L_L2         N00359 N00352  113n  
L_L3         N00374 N00359  1m  
C_C2         N00352 N00359  1n  TC=0,0 
R_R2         N00359 N00352  {var} TC=0,0 
V_V2         N00374 0 12v
Q_Q1         N00352 N00330 0 Q2N2222
.PARAM  var=22
